US06258977B1
Synthesis of methyl 4-bromo-3-oxooctadecanoate
1.8 mol of Meldrum's acid were mixed with 3.96 mol of pyridine in a round-bottomed flask containing 1,2-dichloroethane, placed at 0° C. under argon and with stirring. 1.98 mol of 2-bromohexadecanoyl chloride were then introduced slowly and the mixture was left stirring for 2 hours at 0° C.

reactant | Meldrum's acid | 1.8 mol | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | pyridine | 3.96 mol | N1=CC=CC=C1 | C5H5N
reactant | 2-bromohexadecanoyl chloride | 1.98 mol | BrC(C(=O)Cl)CCCCCCCCCCCCCC | C16H30BrClO
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | methyl 4-bromo-3-oxooctadecanoate | BrC(C(CC(=O)OC)=O)CCCCCCCCCCCCCC | C19H35BrO3
